US05663200
2c) 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(p-cyano-phenyl)methyl]dihydrofuran-2-(3H)-one
In analogy with Example 1b), 1.5 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one, dissolved in 32 ml of THF, are deprotonated with 9.8 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and alkylated with 1.0 g of 4-bromomethylbenzonitrile (Fluka; Buchs/Switzerland) dissolved in 3 ml of THF. Column chromatography (SiO2, hexane/ethyl acetate 1:1) affords the pure title compound: TLC Rf (D)=0.33.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-bromomethylbenzonitrile | 1.0 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]dihydrofuran-2-(3H)-one | 1.5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-Amino)-2-phenylethyl]-3(R)-[(p-cyano-phenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)C#N | C25H28N2O4
